US06028116
(B) (Z)-5-Methoxy-2-methyl-1-(4-methylsulfonylbenzylidene)-3-indenylacetyl chloride
(Z)-5-methoxy-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid (70 mmol) in THF (500 ml) is allowed to react with oxalylchloride (2 M in CH2Cl2 ; 35 ml) under reflux conditions (24 hours). The solvent is evaporated to yield the title compound, which is used as such in the next step.

reactant | (Z)-5-methoxy-2-methyl-1-(p-methylsulfonylbenzylidene)-3-indenylacetic acid | 70 mmol | COC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)O | C21H20O5S
reactant | oxalylchloride | 2 M, 35 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | (Z)-5-Methoxy-2-methyl-1-(4-methylsulfonylbenzylidene)-3-indenylacetyl chloride | COC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)S(=O)(=O)C)C)CC(=O)Cl | C21H19ClO4S
